US07109229B2
(a) C-(1H-Indol-7-yl)-methylamine
To a solution of 1H-indole-7-carboxaldehyde (3.0 g, 20.68 mmol) in ethanol:H2O (3:1) (120 ml) was added hydroxylamine hydrochloride (2.87 g, 41.37 mmol) and ammonium acetate (4.78 g, 62.06 mmol). The reaction was stirred at room temperature for 2 h. To the reaction was added NH4OH (25 ml, 0.72 mmol) and zinc metal (11.0 g, 8.1 mmol) portion-wise. Upon completion, the reaction mixture was filtered, poured into ethyl acetate and washed with water. The organic layer was extracted with 1N HCl. The aqueous layer was then mad basic by the addition of 1N NaOH and extracted with ethyl acetate. The organic layer was washed with water, brine, dried (MgSO4), and concentrated to give a white solid that was dried under high vacuum overnight to give the title compound (2.69 g, 89%) which was used as is. 1H NMR (400 MHz, DMSO-d6) 11.0 (s, 1H), 7.38 (d, 1H, J=7.0 Hz), 7.29 (d, 1H, J=3.0 Hz), 7.0 (d, 1H, J=7.0 Hz), 6.92 (dd, 1H, J=7.0, <1 Hz), 6.4 (d, 1H, J=3.0 Hz), 3.97 (s, 2H). MS (electrospray, m/z) 147 (M++1), 145 (M−−1).

reactant | 1H-indole-7-carboxaldehyde | 20.68 mmol, 3.0 g | N1C=CC2=CC=CC(=C12)C=O | C9H7NO
reactant | hydroxylamine hydrochloride | 41.37 mmol, 2.87 g | Cl.NO
reactant | ammonium acetate | 62.06 mmol, 4.78 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol H2O | 120 ml | C(C)O.O
catalyst | zinc | 8.1 mmol, 11.0 g | [Zn] | Zn
catalyst | NH4OH | 0.72 mmol, 25 ml | [NH4+].[OH-]
product | C-(1H-Indol-7-yl)-methylamine | 2.69 g, 89% | N1C=CC2=CC=CC(=C12)CN | C9H10N2
